* D:\Google_Drive_Sync\EDL\Resources\Simulations\Mosfet\IRF740_V2.asc
XU1 N005 N012 N011 0 NC_01 4N25
R2 N003 N011 4.7k
V1 N001 0 SINE(0 325 50)
M1 N006 N009 COM COM IRF740
M2 0 N009 COM COM IRF740
V3 N015 0 PULSE(0 3.3 0ms 0 0 6ms 10ms)
XR4 N001 N006 LAMP
R5 N002 N001 220K
R6 N007 0 220K
R7 N004 N008 22K
C2 N004 N010 10µF
D5 N010 N008 1N4148
R8 N005 N004 1K
Q1 N012 N008 N010 0 Q2N3904
D4 N002 N004 1N4148
D6 N007 N004 1N4148
D1 N008 N007 1N4148
D2 N008 N002 1N4148
D3 COM N009 EDZV12B
XU2 N016 0 N013 N009 NC_02 4N25
R1 N016 N015 330
V4 N013 COM 5V
R3 N009 COM 4.7K
V2 N003 0 3.3V
.model D D
.lib C:\Users\abhishek konale\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\abhishek konale\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\abhishek konale\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 50ms 0ms 1ms
.include IRF740.txt
.include Incandescent_Lamp.txt
.include Q2N3904.txt
* Control signal from ESP8266
.lib 4N25.sub
.backanno
.end
